US04486592
A solution of 5.0 g (18.8 mM) of 9-carbamoyl-9-(3-aminopropyl)fluorene (prepared as described in U.S. Pat. No. 4,282,170) in 50 ml of methanol saturated with hydrogen chloride was heated at reflux for sixteen hours. The reaction mixture was cooled and concentrated to dryness to give a solid. The solid was dissolved in 1N hydrochloric acid and the solution was heated to 100° C. for five minutes. The acidic mixture was diluted by addition of 50% aqueous sodium hydroxide to pH 10. The aqueous alkaline solution was extracted several times with chloroform, and the extracts were combined, washed with water and with brine and dried. Removal of the solvent by evaporation under reduced pressure provided a solid that was crystallized from dichloromethane and petroleum ether to afford 3.4 g of spiro(9H-fluorene-9,3'-piperidine)-2'-one. m.p. >250° C.

reactant | 9-carbamoyl-9-(3-aminopropyl)fluorene | 18.8 mM, 5.0 g | C(N)(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCN | C17H18N2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
solvent | hydrochloric acid | 1N | Cl | ClH
product | spiro(9H-fluorene-9,3'-piperidine)-2'-one | 3.4 g | N1C(C2(CCC1)C1=CC=CC=C1C=1C=CC=CC12)=O | C17H15NO
